US07666878B2
94a) 1-Bromomethyl-2-chloro-4-ethanesulfonyl-benzene
The titled compound is prepared analogously to 1-bromomethyl-2-chloro-4-methanesulfonyl-benzene by replacing sodium methanesulfinate with sodium ethanesulfinate.

reactant | 1-bromomethyl-2-chloro-4-methanesulfonyl-benzene | BrCC1=C(C=C(C=C1)S(=O)(=O)C)Cl | C8H8BrClO2S
reactant | sodium ethanesulfinate | C(C)S(=O)[O-].[Na+]
product | 1-Bromomethyl-2-chloro-4-ethanesulfonyl-benzene | BrCC1=C(C=C(C=C1)S(=O)(=O)CC)Cl | C9H10BrClO2S
